US09062070B2
Step A: tert-Butyl (3S)-4-[2-(4-cyano-3-methoxyphenyl)-2-hydroxyethyl]-3-(hydroxymethyl)piperazine-1-carboxylate
A Pyrex vessel was charged with magnetic stirring bar, (0.350 g, 2.00 mmol) of 2-methoxy-4-(oxiran-2-yl)benzonitrile, (0.457 g, 2.20 mmol) of tert-butyl (3S)-3-(hydroxymethyl)piperazine-1-carboxylate, and 6 mL of EtOH. Then it was introduced in the microwave reactor and irradiated at 150° C. for 3 hr. Then the mixture was cooled to room temperature and the solvent was evaporated and the resulting residue was purified by column chromatography (silica gel, 1-20% dichloromethane/MeOH) which afforded the title compound as a mixture of two diastereomers (1:1). LC/MS: (IE, m/z) [(M+1)-t-Bu]+=336.1.

reactant | 2-methoxy-4-(oxiran-2-yl)benzonitrile | 2.00 mmol, 0.350 g | COC1=C(C#N)C=CC(=C1)C1OC1 | C10H9NO2
reactant | tert-butyl (3S)-3-(hydroxymethyl)piperazine-1-carboxylate | OC[C@@H]1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O3
solvent | EtOH | 6 mL | CCO | C2H6O
product | tert-Butyl (3S)-4-[2-(4-cyano-3-methoxyphenyl)-2-hydroxyethyl]-3-(hydroxymethyl)piperazine-1-carboxylate | C(#N)C1=C(C=C(C=C1)C(CN1[C@@H](CN(CC1)C(=O)OC(C)(C)C)CO)O)OC | C20H29N3O5
